US06184236B2
Following the general procedure of example 40b, N-[1-(4-methoxy-phenyl)-piperidin-4-yl]-3-phenyl-propionamide (1.87 g, 5.53 mmol) was reduced with LiAlH4 to give [1-(4-methoxy-phenyl)-piperidin-4-yl]-(3-phenyl-propyl)-amine (1.64 g, 91%, MS: m/e=325.4 (M+H+)) as a white solid.

reactant | N-[1-(4-methoxy-phenyl)-piperidin-4-yl]-3-phenyl-propionamide | 5.53 mmol, 1.87 g | COC1=CC=C(C=C1)N1CCC(CC1)NC(CCC1=CC=CC=C1)=O | C21H26N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | [1-(4-methoxy-phenyl)-piperidin-4-yl]-(3-phenyl-propyl)-amine | 1.64 g, 91% | COC1=CC=C(C=C1)N1CCC(CC1)NCCCC1=CC=CC=C1 | C21H28N2O
